US04656299
In accordance with the Rausch method, 10 ml of a tetrahydrofuran solution of cyclopentadienyl sodium (20 mmol/10 ml THF) and 4 ml of methylacetate were mixed in a nitrogen atmosphere, and refluxed for 20 minutes to obtain acetylcyclopentadienyl sodium. To the solution containing colorless crystals thereby obtained, 40 ml of benzene was added, and 10.6 g of tris-triphenylphosphine cobalt monochloride was further added whereby a red solution of bistriphenylphosphine-η5 -acetylcyclopentadienyl cobalt was immediately obtained. The solution was stirred at room temperature for about 1 hour. Then, an aqueous ammonium chloride solution was added to remove the excess acetylcyclopentadienyl sodium by transferring it to the aqueous phase. The organic phase was dried over sodium sulfate and then filtered. To the solution thereby obtained, 5 ml of 1,5-cyclooctadiene was added, and the mixture was refluxed for 1 hour on a hot water bath, and then concentrated under reduced pressure. The product was subjected to alumina column chromatography, whereupon an orange brown fraction eluted by a mixture of benzene/hexane (1:1) was isolated. The solvent was distilled off, and the product was recrystallized from benzene/hexane to obtain 0.32 g of brown crystals.

reactant | cyclopentadienyl sodium | 20 mmol, 10 ml | C1(C=CC=C1)[Na]
reactant | methylacetate | 4 ml | COC(C)=O | C3H6O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | acetylcyclopentadienyl sodium | C(C)(=O)C1(C=CC=C1)[Na] | InChI=1S/C7H7O.Na/c1-6(8)7-4-2-3-5-7;/h2-5H,1H3;
